US05863864
15. 2,4-Dimethylsaccharin-5-carbonyl chloride
3.8 g (14.9 mmol) of 4,N-dimethyl-1,1,3-trioxo-2,3-dihydro-1λ6 benz[d]isothiazole-5-carboxylic acid are suspended in 100 ml of toluene, and the mixture is heated to 80° C. and 3.5 g (29.8 mmol) of thionyl chloride are added dropwise. After refluxing for two hours, the solution is decanted hot and the reaction mixture is concentrated on a rotary evaporator. Yield: 74% of theory, m.p.: 149°-150° C.

reactant | 4,N-dimethyl-1,1,3-trioxo-2,3-dihydro-1λ6 benz[d]isothiazole-5-carboxylic acid | 14.9 mmol, 3.8 g | CC1=C(C=CC2=C1C(N(S2(=O)=O)C)=O)C(=O)O | C10H9NO5S
reactant | thionyl chloride | 29.8 mmol, 3.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-Dimethylsaccharin-5-carbonyl chloride | Yield: 74% | CN1S(=O)(=O)C2=CC=C(C(=C2C1=O)C)C(=O)Cl | C10H8ClNO4S
